US07012075B2
To the crude N-(5-bromo-2-pyrimidinyl)leucine (1.3 g, 4.2 mmol), PyBOP (2.62 g, 5.04 mmol), aminoacetonitrile hydrochloride (930 mg, 10.08 mmol) in dry DMF (50 mL) under dry nitrogen was added triethylamine (2.4 mL, 16.8 mmol) dropwise and the reaction was stirred overnight. Aqueous Sat. NaHCO3 was added and the product extracted with Et2O (2×), dried on Na2SO4, concentrated in vacuo, and purified by flash chromatography over silica gel (EtOAc/Hex, 1/1) to afford 2-[(5-bromo-2-pyrimidinyl)amino]-N-(cyanomethyl)-4-methylpentanamide.

reactant | N-(5-bromo-2-pyrimidinyl)leucine | 4.2 mmol, 1.3 g | BrC=1C=NC(=NC1)N[C@@H](CC(C)C)C(=O)O | C10H14BrN3O2
reactant | PyBOP | 5.04 mmol, 2.62 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | aminoacetonitrile hydrochloride | 10.08 mmol, 930 mg | Cl.NCC#N
reactant | triethylamine | 16.8 mmol, 2.4 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-[(5-bromo-2-pyrimidinyl)amino]-N-(cyanomethyl)-4-methylpentanamide | BrC=1C=NC(=NC1)NC(C(=O)NCC#N)CC(C)C | C12H16BrN5O
